Title: RC step charecteristics

* set the device temperature
.TEMP 27


*ele    n1      n2     value
  R1     Vin     Vout    10k
  C1     Vout     0      10p

*Vpulse  n1   n2   PULSE   v1   v2   td     tr    tf   pw    per
Vpulse   Vin  0    pulse   0    5    0.5u  10n   10n  0.5u  1u


*TRAN     step-size     sim-size
.TRAN     0.1u           3u


.Control 
RUN 
plot v(Vin) V(Vout)
.endc

.end
